US04594451
Preparation of 3-chloro-4-(3,3,3 trifluoro-1-propenyl)nitro-benzene
2.85 g of 3-chloro-4-iodo-nitro-benzene, 0.95 g of sodium acetate, 0.0048 g of Pd(OAc)2, 0.048 g of triphenylphosphine and 2 g of 3,3,3-trifluoro-propene were reacted in 25 ml of dimethylformamide at 130° C. for 24 h, under stirring. The reaction mixture was cooled, breathered to atmospheric pressure, poured in water and extracted with ethyl ether (5×80 ml). The organic extract was anhydrified on Na2SO4 and purified by chromatography on silica gel column (hexane 95%--ethyl-acetate 5%).

reactant | 3-chloro-4-iodo-nitro-benzene | 2.85 g | ClC=1C=C(C=CC1I)[N+](=O)[O-] | C6H3ClINO2
reactant | sodium acetate | 0.95 g | C(C)(=O)[O-].[Na+]
reactant | triphenylphosphine | 0.048 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3,3,3-trifluoro-propene | 2 g | FC(C=C)(F)F | C3H3F3
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
catalyst | Pd(OAc)2 | 0.0048 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 3-chloro-4-(3,3,3 trifluoro-1-propenyl)nitro-benzene | ClC=1C=C(C=CC1C=CC(F)(F)F)[N+](=O)[O-] | C9H5ClF3NO2
